US04105432
To a solution of N-phosphonomethylglycine (8.5 grams, 0.05 mole) in 30 ml. of water is added 50% aqueous sodium hydroxide (8.0 grams). The solution is cooled, and 1,2-butylene oxide (3.6 grams, 0.05 mole) is added, after which the solution is rotated overnight on a polymer wheel. Additional amounts of 1,2-butylene oxide are added to complete the reaction, and any unreacted butylene oxide is then extracted with ethyl ether and benzene. A portion of the reaction product is diluted with water and passed through a column of ion exchange resin in the acid form. Cuts 3 through 20 are collected, combined and evaporated to dryness to give 6-ethyl-4-phosphonomethyl-2-morpholinone as a friable glassy solid.

reactant | N-phosphonomethylglycine | 0.05 mole, 8.5 grams | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
reactant | sodium hydroxide | 8.0 grams | [OH-].[Na+]
reactant | 1,2-butylene oxide | 0.05 mole, 3.6 grams | C1C(CC)O1 | C4H8O
solvent | water | O | H2O
product | 6-ethyl-4-phosphonomethyl-2-morpholinone | C(C)C1OC(CN(C1)CP(=O)(O)O)=O | C7H14NO5P
